US06919335B2
1-(6-Bromo-2,3-dihydro-1H-inden-1-yl)pyrrolidine
6-bromoindanol (0.3 g, 1.39 mmol) was subjected to the same conditions as 104, part A by substituting methylamine with pyrrolidine (1.16 mL, 14 mmol) to yield the title compound (0.195 g, 52%). 1H NMR (CDCl3): 7.4 (s, 1H), 7.25 (d, 1H), 7.0 (d, 1H), 4.1 (t, 1H), 2.9 (m, 1H), 2.6 (m, 1H), 2.55 (m, 4H), 2.1 (m, 2H), 1.7 (brs, 4H).

reactant | 6-bromoindanol | 1.39 mmol, 0.3 g | BrC1=CC=C2CCC(C2=C1)O | C9H9BrO
reactant | pyrrolidine | 14 mmol, 1.16 mL | N1CCCC1 | C4H9N
product | 1-(6-Bromo-2,3-dihydro-1H-inden-1-yl)pyrrolidine | 0.195 g, 52% | BrC1=CC=C2CCC(C2=C1)N1CCCC1 | C13H16BrN
